data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_76823_1,[C:1](/[C:4]([N:7]([H:12])[H:13])=[N:9]\[C:3](=[C:5](\[C:2]([H:19])([H:20])[H:21])[N:8]([H:14])[H:15])[N:6]([H:10])[H:11])([H:16])([H:17])[H:18]>>[C:1]([C:4]1=[N:9][C:3]1([C:5]([C:2]([H:19])([H:20])[H:21])([N:7]([H:12])[H:13])[N:8]([H:14])[H:15])[N:6]([H:10])[H:11])([H:16])([H:17])[H:18],70.67532500001519
MR_666012_0,[C:1]1([O:5][H:8])([O:6][H:9])[O:4][C:2]([H:10])([H:11])[C:3]([H:12])=[N:7]1>>[C:1](=[O:5])([O:6][H:9])/[N:7]=[C:3](\[C:2]([O:4][H:8])([H:10])[H:11])[H:12],26.46606750002377
MR_295205_1,[C:1]([C:3]1=[C:5]([H:10])[C:4]2([H:9])[N:2]([O:6][H:8])[N:7]12)([H:11])([H:12])[H:13]>>[C:1]([c:3]1[c:5]([H:10])[c:4]([H:9])[n:2]([O:6][H:8])[n:7]1)([H:11])([H:12])[H:13],14.01395750000205
MR_471035_0,[N:1](/[N:5]=[N:4]/[N:6]=[C:2](\[O:3][H:7])[H:10])([H:8])[H:9]>>[N:1]([N:5]1[C:2]([O:3][H:7])([H:10])[N:6]=[N:4]1)([H:8])[H:9],42.71329750002309
MR_171733_1,[C:1](/[C:5]([N:4]([C:2]([H:14])([H:15])[H:16])[H:9])=[N:8]/[H:10])(/[N:7]=[C:6](/[C:3]([H:17])([H:18])[H:19])[H:13])([H:11])[H:12]>>[C:1]1([H:11])([H:12])/[C:5](=[N:8]/[H:10])[N:7]1[C:6]([C:3]([H:17])([H:18])[H:19])([N:4]([C:2]([H:14])([H:15])[H:16])[H:9])[H:13],72.79941250003844
MR_525816_1,[C:1]1([H:12])([H:13])[N:4]([C:2]([H:15])([H:16])[H:17])[C:5]2([N:7]([H:10])[H:11])[C:8]1([H:14])[C:6]([C:3]([H:18])([H:19])[H:20])=[N:9]2>>[C:1]1([H:12])([H:13])[N:4]([C:2]([H:15])([H:16])[H:17])[C:5]([N:7]([H:10])[H:11])=[N:9][C:6]([C:3]([H:18])([H:19])[H:20])=[C:8]1[H:14],16.44175500000756
MR_85878_0,[C:1](/[C:3]([N:5]([H:10])[H:11])=[C:6](/[C:2]([N:4]([H:8])[H:9])=[O:7])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:3]1([N:5]([H:10])[H:11])[C:6]([H:12])=[C:2]([N:4]([H:8])[H:9])[O:7]1)([H:13])([H:14])[H:15],48.651957500046166
MR_494086_0,[C:1](/[C:4]([N:3]([C:5]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])[H:8])=[N:7]\[H:9])([H:10])([H:11])[H:12]>>[C:1](/[C:4]([C:6](/[C:5]([C:2]([H:13])([H:14])[H:15])=[N:3]/[H:8])([H:16])[H:17])=[N:7]\[H:9])([H:10])([H:11])[H:12],62.313260000011184
MR_338387_1,[C@@:1]([N:2]([O:6][H:8])[O:7][H:9])([N:3]([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:10]>>[C:1](\[N:3]([H:11])[H:12])(=[C:4](/[C:5]([N:2]([O:6][H:8])[O:7][H:9])([H:14])[H:15])[H:13])[H:10],47.799185000023385
MR_153152_0,[C:1]([C:5]([C:4](=[C:6]([C:2]([H:16])([H:17])[H:18])[C:3]([H:14])([H:15])[H:19])[N:7]([H:9])[H:10])=[O:8])([H:11])([H:12])[H:13]>>[C:1]([C:5]1=[C:4]([N:7]([H:9])[H:10])[C:6]([C:2]([H:16])([H:17])[H:18])([C:3]([H:14])([H:15])[H:19])[O:8]1)([H:11])([H:12])[H:13],49.839187499973576
MR_552106_0,[C:1]([C:2]([H:15])([H:16])[H:17])([C:4]1(/[C:5](=[N:8]\[H:11])[H:12])/[C:3](=[N:6]\[H:9])[N:7]1[H:10])([H:13])[H:14]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([C:4](/[C:5](=[N:8]\[H:11])[H:12])=[N:7]\[H:10])=[N:6]/[H:9])([H:13])[H:14],63.0869674999839
MR_304982_1,[C:1]([O:5][C:3]([C:2]([O:6][H:8])([H:10])[H:11])=[C:4]([H:12])[H:13])(=[O:7])[H:9]>>[C:1]1([O:7][H:8])([H:9])[O:5][C:3](=[C:4]([H:12])[H:13])[C:2]([H:10])([H:11])[O:6]1,46.20345249998593
MR_186951_2,[C:1]([C:2]([H:11])([H:12])[H:13])(/[C:3](=[N:6]/[H:9])[H:10])([O:4][H:8])[O:5][H:7]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([O:5][H:7])[C:3]([O:4][H:8])([H:10])[N:6]1[H:9],65.11567499999828
MR_517307_1,[C:1]([C:3]([C:4]1([C:2]([H:15])([H:16])[H:17])[C:5]([H:10])=[C:6]([H:11])[N:7]1[H:9])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:3](/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:5]([C:6](=[N:7]/[H:9])\[H:11])/[H:10])=[O:8])([H:12])([H:13])[H:14],29.72530249999892
MR_334322_2,[C:1]1([N:6]([H:9])[H:10])=[C:7]([H:11])[C:5]2([C:3]([H:15])([H:16])[H:17])[C:4]1([C:2]([H:12])([H:13])[H:14])[C:8]2([H:18])[H:19]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([N:6]([H:9])[H:10])[C:4](=[C:8]([H:18])[H:19])[C:5]([C:3]([H:15])([H:16])[H:17])=[C:7]1[H:11],63.14218750002283
MR_475479_1,[C:1]([C:2]([H:11])([H:12])[H:13])([N:3]([C:4](=[O:7])[H:10])[H:8])([N:5]=[O:6])[H:9]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([H:9])[N:3]([H:8])[C:4]1([O:7][N:5]=[O:6])[H:10],71.75023250001217
MR_369168_1,[C:1](/[C:3]([C:2]([H:13])([H:14])[H:15])=[C:4](/[O:7][H:10])[H:12])([O:5][H:8])([O:6][H:9])[H:11]>>[C:1](=[C:3](\[C:2]([H:13])([H:14])[H:15])[C:4]([O:6][H:9])([O:7][H:10])[H:12])(\[O:5][H:8])[H:11],52.94531250001427
MR_154435_0,[C:1](/[C:5](=[C:4](\[N:2]([N:3]([H:8])[H:9])[O:6][H:7])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5]1([H:11])[N:2]([N:3]([H:8])[H:9])[C:4]1([O:6][H:7])[H:10])([H:12])([H:13])[H:14],34.57838750001628
MR_214741_0,[C:1]([C:3]([N:2]([N:4]([H:8])[H:9])[H:7])=[O:6])([N:5]([H:10])[H:11])([H:12])[H:13]>>[C:1](/[C:3](=[N:2]/[N:4]([H:7])[H:8])[O:6][H:9])([N:5]([H:10])[H:11])([H:12])[H:13],58.50370749999868
MR_603361_1,[C:1]([C:2]([H:15])([H:16])[H:17])([C:5]1([C:3]([N:6]([H:10])[H:11])=[O:8])[C:4](=[O:9])[N:7]1[H:12])([H:13])[H:14]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:4](/[C:5]([C:3]([N:6]([H:10])[H:11])=[O:8])=[N:7]\[H:12])=[O:9])([H:13])[H:14],49.083677500026255
MR_311499_1,[C:1]([C:2](/[C:3](=[N:5]\[H:8])[H:11])=[O:6])([O:4][H:7])([H:9])[H:10]>>[C:1](=[C:2](/[O:6]/[C:3](=[N:5]\[H:8])[H:11])[H:10])(\[O:4][H:7])[H:9],69.69830749998508
